US05633312
In the same manner as in Example 1, change of the average molecular weight of the resulting polysilanes was examined by changing the amount of methyl lithium to be used as a reaction starting compound. The results including those of Example 1 and the yields and properties of the products are shown in Table 1. In Example 4, after the disilane compound and methyl lithium were reacted, the reaction mixture was applied to gas chromatography before heating to confirm that 1,1,2-trimethyl-1,2,2-triethoxydisilane and 1,1,2,2-tetramethyl-1,2-diethoxydisilane were produced. From the reaction mixture of Example 4, no solid was obtained by reprecipitation so that low boiling point compounds were removed under conditions of 180° C. and 1 Torr to give a final product.

reactant | methyl lithium | C[Li]
reactant | disilane | [SiH3][SiH3] | H6Si2
reactant | 1,1,2-trimethyl-1,2,2-triethoxydisilane | C[Si]([Si](OCC)(OCC)C)(OCC)C | C9H24O3Si2
product | 1,1,2,2-tetramethyl-1,2-diethoxydisilane | C[Si]([Si](OCC)(C)C)(OCC)C | C8H22O2Si2
